US04177173
1,2,4-trimethylpiperazine;
1-methylimidazole; N-methyl-4-(2 dimethylaminoethyl)piperazine; N,N,N-tris (dimethylaminopropyl) synhexahydrotriazine; N (2-dimethylaminoethyl) morpholine; octadecyl dimethylamine; hexadecyldimethylamine and the like.

reactant | 1-methylimidazole | CN1C=NC=C1 | C4H6N2
reactant | N-methyl-4-(2 dimethylaminoethyl)piperazine | CN1CCN(CC1)CCN(C)C | C9H21N3
reactant | (2-dimethylaminoethyl) morpholine | CN(CCN1CCOCC1)C | C8H18N2O
reactant | octadecyl dimethylamine | C(CCCCCCCCCCCCCCCCC)N(C)C | C20H43N
reactant | hexadecyldimethylamine | C(CCCCCCCCCCCCCCC)N(C)C | C18H39N
product | 1,2,4-trimethylpiperazine | CN1C(CN(CC1)C)C | C7H16N2
